US07799775B2
A mixture of 70 mg of 1-(4-tert-butoxycarbonylpiperazin-1-yl)-7-hydroxyisoquinoline as synthesized in the above step and 3 ml of 4N hydrochloric acid-ethyl acetate solution was stirred for an hour at room temperature. So formed crystalline product was recovered by filtration and washed with ethyl acetate to provide 43 mg (yield: 78%) of 7-hydroxy-1-piperazin-1-ylisoquinoline hydrochloride.

reactant | 1-(4-tert-butoxycarbonylpiperazin-1-yl)-7-hydroxyisoquinoline | 70 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)O | C18H23N3O3
reactant | hydrochloric acid ethyl acetate | 4N, 3 ml | Cl.C(C)(=O)OCC
product | 7-hydroxy-1-piperazin-1-ylisoquinoline hydrochloride | 43 mg, yield: 78% | Cl.OC1=CC=C2C=CN=C(C2=C1)N1CCNCC1 | InChI=1S/C13H15N3O.ClH/c17-11-2-1-10-3-4-15-13(12(10)9-11)16-7-5-14-6-8-16;/h1-4,9,14,17H,5-8H2;1H
